US07728030B2
2,2,2-Trifluoro-N-[(1R,2S)-1-[1-(4-fluorophenyl)-6-methyl-indazol-5-yl]oxy-1-(3-methoxyphenyl)propan-2-yl]acetamide
Prepared as described in Example 1 using (1R,2S)-1-[1-(4-fluorophenyl)-6-methyl-indazol-5-yl]oxy-1-(3-methoxyphenyl)-propan-2-amine (73 mg, 0.18 mmol) and trifluoroacetic anhydride (0.102 ml, 0.72 mmol). Yield 69 mg (76%).

reactant | (1R,2S)-1-[1-(4-fluorophenyl)-6-methyl-indazol-5-yl]oxy-1-(3-methoxyphenyl)-propan-2-amine | 0.18 mmol, 73 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=C(C=C12)C)O[C@@H]([C@H](C)N)C1=CC(=CC=C1)OC | C24H24FN3O2
reactant | trifluoroacetic anhydride | 0.72 mmol, 0.102 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2,2,2-Trifluoro-N-[(1R,2S)-1-[1-(4-fluorophenyl)-6-methyl-indazol-5-yl]oxy-1-(3-methoxyphenyl)propan-2-yl]acetamide | FC(C(=O)N[C@H]([C@@H](C1=CC(=CC=C1)OC)OC=1C=C2C=NN(C2=CC1C)C1=CC=C(C=C1)F)C)(F)F | C26H23F4N3O3
